US07915443B2
(S)-tert-butyl (5-{[5-({[methyl(oxo)phenyl-λ6-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}-1,3-thiazol-2-yl)carbamate
A mixture of N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide (73 mg, 0.21 mmol), tert-butyl (5-bromo-1,3-thiazol-2-yl)carbamate (74 mg, 0.27 mmol), dichlorobis(triphenylphosphine)palladium(II) (14 mg, 0.02 mmol), triphenylphosphine (2.7 mg, 0.004 mmol) and triethylamine (0.071 mL, 0.51 mmol) in 1.8 mL DMF at room temperature was degassed using vacuum and a H2/N2 (1:1) mixture and then copper(I) iodide (2 mg, 0.01 mmol) added. While stirring the mixture at room temperature, tetrabutylammonium fluoride (1.0 M in THF, 0.21 mL) was added over 2.5 minutes. After 5 minutes the reaction was heated at 60° C. for 2 hours. The reaction was partitioned between EtOAc and H2O and the EtOAc layer washed with H2O, aqueous HCl, saturated NaHCO3 solution, brine, dried with anhydrous Na2SO4 and concentrated. The brown oil was chromatographed eluting with hexane/acetone and the product containing fractions were concentrated to give the title compound as a light yellow solid (17 mg, 18%).

reactant | N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide | 0.21 mmol, 73 mg | CS(=NC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O)(C1=CC=CC=C1)=O | C18H20N2O2SSi
reactant | tert-butyl (5-bromo-1,3-thiazol-2-yl)carbamate | 0.27 mmol, 74 mg | BrC1=CN=C(S1)NC(OC(C)(C)C)=O | C8H11BrN2O2S
reactant | triphenylphosphine | 0.004 mmol, 2.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.51 mmol, 0.071 mL | C(C)N(CC)CC | C6H15N
reactant | H2 N2 | [H][H].N#N
reactant | tetrabutylammonium fluoride | 1.0 M, 0.21 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.01 mmol, 2 mg | [Cu]I
product | (S)-tert-butyl (5-{[5-({[methyl(oxo)phenyl-λ6-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}-1,3-thiazol-2-yl)carbamate | 17 mg, 18% | C[S@@](C1=CC=CC=C1)(=O)=NC(=O)C=1C=C(C=NC1)C#CC1=CN=C(S1)NC(OC(C)(C)C)=O | C23H22N4O4S2
